US08034812B2
Production of N-[2-bromo-5-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)phenyl]-1,3-dimethyl-1H-pyrazole-5-carboxamide
To a solution of N-[6-(3-amino-4-bromophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide (582 mg, 1.50 mmol) in N-methylpyrrolidone (5 mL) was added 1,3-dimethyl-1H-pyrazole-5-carbonyl chloride (310 mg, 1.95 mmol), and the mixture was stirred at room temperature for 18 hr. A 5% aqueous sodium hydrogencarbonate solution was added to the reaction mixture, and the mixture was extracted with a mixed solvent of ethyl acetate/tetrahydrofuran (1:1). The organic layer was washed with water, dried over anhydrous sodium sulfate, filtrated, and concentrated under reduced pressure. The residue was suspended in ethyl acetate, and the mixture was stirred with heating under reflux for 15 min. After allowing the reaction mixture to cool to room temperature, the precipitate was collected by filtration, washed with ethyl acetate, and dried under reduced pressure to give the title compound (658 mg, yield 86%) as a cream solid.

reactant | N-[6-(3-amino-4-bromophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide | 1.50 mmol, 582 mg | NC=1C=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=CC1Br | C16H14BrN5O2
reactant | 1,3-dimethyl-1H-pyrazole-5-carbonyl chloride | 1.95 mmol, 310 mg | CN1N=C(C=C1C(=O)Cl)C | C6H7ClN2O
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | N-methylpyrrolidone | 5 mL | CN1C(CCC1)=O | C5H9NO
product | N-[2-bromo-5-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)phenyl]-1,3-dimethyl-1H-pyrazole-5-carboxamide | 658 mg, yield 86% | BrC1=C(C=C(C=C1)OC=1C=CC=2N(N1)C=C(N2)NC(=O)C2CC2)NC(=O)C2=CC(=NN2C)C | C22H20BrN7O3
